2147-11-10 07:46:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   - continued lactulose
   - UA with hyaline casts and blood
   - mental status with slow improvement, 130am responsive to commands in
   all exts, appropriate eye contact
   - urine lytes [**Name (NI) 3786**] 0%, FeUrea 13.2%, urine osm 508, hr 105 --> IVF NS
   - ABG pm [**11-9**] - 7.49/22/169
   - lactate trend downward from 3.7 to 2 at 9pm, then back to 3.7 in am
   - needed to start propofol gtt at 5am due to discomfort and concern for
   pulling NGT
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2147-11-10**] 02:11 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2147-11-9**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-10**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 97 (81 - 126) bpm
   BP: 102/65(71) {100/45(57) - 143/84(95)} mmHg
   RR: 16 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.9 kg (admission): 65 kg
   Height: 70 Inch
             Total In:
                                                                  1,589 mL
                                                                    406 mL
   PO:
             TF:
   IVF:
                                                                  1,269 mL
                                                                    236 mL
   Blood products:
   Total out:
                                                                    470 mL
                                                                    269 mL
   Urine:
                                                                    470 mL
                                                                    269 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,119 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,206 (1,089 - 1,530) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 13
   PIP: 6 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.49/22/169/15/-3
   Ve: 12.7 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   86 K/uL
   8.7 g/dL
   110 mg/dL
   1.1 mg/dL
   15 mEq/L
   4.0 mEq/L
   22 mg/dL
   105 mEq/L
   132 mEq/L
   25.9 %
   14.7 K/uL
        [image002.jpg]
                            [**2147-11-5**]  07:44 PM
                            [**2147-11-6**]  04:42 AM
                            [**2147-11-6**]  09:07 AM
                            [**2147-11-9**]  05:50 AM
                            [**2147-11-9**]  07:19 AM
                            [**2147-11-9**]  09:21 AM
                            [**2147-11-9**]  09:38 AM
                            [**2147-11-9**]  02:47 PM
                            [**2147-11-9**]  06:39 PM
                            [**2147-11-10**]  04:00 AM
   WBC
   10.6
   9.8
   18.6
   14.7
   Hct
   27.9
   30
   28.1
   27.3
   25.9
   Plt
   123
   92
   86
   86
   Cr
   0.8
   0.8
   0.9
   1.0
   1.0
   1.1
   TCO2
   20
   18
   17
   Glucose
   143
   105
   107
   113
   129
   103
   110
   Other labs: PT / PTT / INR:22.6/58.2/2.2, ALT / AST:82/138, Alk Phos /
   T Bili:180/5.8, Amylase / Lipase:126/104, Differential-Neuts:86.4 %,
   Lymph:6.3 %, Mono:6.8 %, Eos:0.5 %, Lactic Acid:3.3 mmol/L, Albumin:2.8
   g/dL, LDH:315 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   A/P: 41 yo M with pulmonary hypertension, ESLD on transplant list with
   Hep C cirrhosis, alcoholic cirrhosis, hypothyroidism who presents with
   his fourth episode of altered mental status requiring intubation for
   airway protection.
   # Somnolence.  Again prompting respiratory code and intubation for
   airway protection on floor.  Differential has included hepatic
   encephalopathy (worsening overnight with no overnight doses of
   lactulose), OSA or other sleep disordered breathing, or new type of
   neurologic event.   Also consider electrolyte abnormality (alkalemia
   stable, hyponatremia with improvement overnight), infection (SBP - last
   tap 3 days ago, afebrile, no abdominal tenderness; CXR clear, consider
   urine/blood).  Glucose normal.  Regarding hepatic encephalopathy,
   patient getting lactulose, rifaximin, and low dose flagyl.  Regarding
   sleep disorder breathing, patient had sleep study 3 nights ago with
   suggestion of mild-mod OSA, no REM sleep achieved.  On CPAP 2 nights
   ago for trial, unclear if was getting this last night.  Currently
   worrisome is that he is minimally responsive currently - ?neurologic
   event or subclincal status, vs. residual medication effect or hepatic
   encephalopathy.  Neurologic exam similar to previous presentations
   (initially with minimal responsiveness, then rapidly improving).  Most
   likely explanation is severe hepatic encephalopathy with overnight
   break from lactulose, as these episodes have all occurred within a few
   hours of 8am meds (no lactulose for at least 8-10 hours).  If sleep
   disordered breathing related, could expect these events to occur
   sporadically throughout night instead of consistently 6-7am.
   -          Treat aggressively for hepatic encephalopathy  - lactulose
   Q2H to start until mental status clearing, continue rifaximin and
   flagyl.  [**Month (only) 51**] need specific overnight wakeup for lactulose.
   -          Possible OSA
 consider CPAP upon extubation (trial 2 nights
   ago).
   -          Management of hyponatremia as below.
   -          Infectious workup
 check UA; no indication to tap ascites
   currently (last tap 3 days ago), consider blood cultures.  No fever,
   leukocytosis, or systemic signs of infection.
   -          Consider tox screens, have been negative except benzos
   (after received in hospital) in past.
   -          Extubation once mental status clears (keep on [**4-24**] for now).
    # Respiratory alkalosis/metabolic acidosis.  Stable pH at 7.50 with
   significant respiratory alkalemia.  Taking large breaths on vent.
   Likely related to ascites/large abdomen with other hormonal effects
   from cirrhosis.  Also with metabolic acidosis
 in part compensatory
   for respiratory alkalosis, but bicarb dropping throughout this
   admission, likely an effect of increasing lactulose requirements
   leading to worsening diarrhea and bicarb losses.
   -          Continue with PSV on vent at current settings ([**4-24**]).
   -          Check urinary anion gap
 anticipate seeing negative gap due
   to GI losses of bicarb.
   # Hyponatremia: Stable in 120s.  Has been in the low 130s previously on
   this admission.  Yesterday with Na 118, up to 126 this AM.  Unlikely to
   be primary cause of altered mental status.
   -          1 L fluid restriction once taking PO.
   -          Hold diuretics
   -          Avoid rapid correction of Na if drops again.
   # ESLD: Hep C and alcohol cirrhosis.
   - lactulose, rifaximin, flagyl as above.
   -holding diuretics for now
   -continue prophylactic cipro (SBP).
   - follow up hepatology recs
    # Pulmonary HTN: on iloprost and sildenifil at home.  Sildenifil
   discontinued yesterday due to concern of worsening OSA.  No evidence
   that this or other decompensations were related to pulmonary
   hypertension, as remains hemodynamically stable during these events.
   -          continue to hold both sildenifil and iloprost for now
   (iloprost can resume once extubated).
   # Epistaxis.  Noted to have blood in nose during event.  No current
   bleeding.  Neither OGT or ETT suctioning returning blood.
   -          continue to monitor for now
   -          FFP and platelets is needed if has recurrent bleeding.
   # Hypothyroidism: continue levothyroxine
   ICU Care
   Nutrition:
   Comments: NPO for planned extubation
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-11-9**] 08:10 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2147-11-10 07:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   >improved MS over last 12hr
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2147-11-10**] 02:11 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2147-11-9**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-10**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 97 (81 - 126) bpm
   BP: 102/65(71) {100/45(57) - 143/84(95)} mmHg
   RR: 16 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.9 kg (admission): 65 kg
   Height: 70 Inch
             Total In:
                                                                  1,589 mL
                                                                    392 mL
   PO:
             TF:
   IVF:
                                                                  1,269 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                    470 mL
                                                                    269 mL
   Urine:
                                                                    470 mL
                                                                    269 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,119 mL
                                                                    123 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,206 (1,089 - 1,530) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 13
   PIP: 6 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.49/22/169/15/-3
   Ve: 12.7 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: upper airway)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   86 K/uL
   110 mg/dL
   1.1 mg/dL
   15 mEq/L
   4.0 mEq/L
   22 mg/dL
   105 mEq/L
   132 mEq/L
   25.9 %
   14.7 K/uL
        [image002.jpg]
                            [**2147-11-5**]  07:44 PM
                            [**2147-11-6**]  04:42 AM
                            [**2147-11-6**]  09:07 AM
                            [**2147-11-9**]  05:50 AM
                            [**2147-11-9**]  07:19 AM
                            [**2147-11-9**]  09:21 AM
                            [**2147-11-9**]  09:38 AM
                            [**2147-11-9**]  02:47 PM
                            [**2147-11-9**]  06:39 PM
                            [**2147-11-10**]  04:00 AM
   WBC
   10.6
   9.8
   18.6
   14.7
   Hct
   27.9
   30
   28.1
   27.3
   25.9
   Plt
   123
   92
   86
   86
   Cr
   0.8
   0.8
   0.9
   1.0
   1.0
   1.1
   TCO2
   20
   18
   17
   Glucose
   143
   105
   107
   113
   129
   103
   110
   Other labs: PT / PTT / INR:22.6/58.2/2.2, ALT / AST:82/138, Alk Phos /
   T Bili:180/5.8, Amylase / Lipase:126/104, Differential-Neuts:86.4 %,
   Lymph:6.3 %, Mono:6.8 %, Eos:0.5 %, Lactic Acid:3.3 mmol/L, Albumin:2.8
   g/dL, LDH:315 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   CXR [**11-10**]: ET in good position, no infil or effusion.
   Assessment and Plan
   41 yo male with hx of HepC and EtOh cirrhosis with 4 admissions to ICU
   this month for altered mental status possibly complicated by sleep
   disordered breathing which have led to intuabtion each time, currently
   he is back to baseline.
   >Altered Mental status/Intubation: once again he has improved to what
   appears to be near his baseline with lactulose therapy. There is no
   concern for AIP or subclinical status at this point.  We are currently
   weighing the merits of tracheostomy in this patient given the number of
   intubations he has had in the past. It may be helpful with ventilation
   in the evening.
   - cont bolus sedation pending outcome of trach discussion
   - PS ventilation as above.
   >Liver failure: followed by liver service, on lactulose, rifax and
   flagy for clearance
   - cont above regimen
   Hyponatremia:  slowly improving over the past 24 hrs, we will cont to
   trend.  His Uosm and Fena were consistent with
   Lactate: most likely [**1-21**] underlying liver  dysfunction, he has had a
   similar oscillating in the past.
   Elevated WBC/mild fever: appears to be consistent with stress event as
   the WBC has improved markedly. If course begins to change we will need
   to consider paracentesis although he is on prophylaxis. Notably last
   tap was bland.
   - check c. dif
   ICU Care
   Nutrition:
   NPO f
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2147-11-9**] 08:10 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2147-11-10 16:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2147-11-10**] 08:00 AM
   Metronidazole - [**2147-11-10**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2147-11-10**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-10**] 04:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.8
   HR: 119 (93 - 126) bpm
   BP: 151/76(89) {100/45(57) - 151/76(89)} mmHg
   RR: 12 (11 - 20) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.9 kg (admission): 65 kg
   Height: 66 Inch
             Total In:
                                                                  1,589 mL
                                                                  1,761 mL
   PO:
             150 mL
   TF:
   IVF:
                                                                  1,269 mL
                                                                  1,181 mL
   Blood products:
   Total out:
                                                                    470 mL
                                                                    704 mL
   Urine:
                                                                    470 mL
                                                                    704 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,119 mL
                                                                  1,057 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 936 (936 - 1,239) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 13
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///15/
   Ve: 14.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   86 K/uL
   110 mg/dL
   1.1 mg/dL
   15 mEq/L
   4.0 mEq/L
   22 mg/dL
   105 mEq/L
   132 mEq/L
   25.9 %
   14.7 K/uL
        [image002.jpg]
                            [**2147-11-5**]  07:44 PM
                            [**2147-11-6**]  04:42 AM
                            [**2147-11-6**]  09:07 AM
                            [**2147-11-9**]  05:50 AM
                            [**2147-11-9**]  07:19 AM
                            [**2147-11-9**]  09:21 AM
                            [**2147-11-9**]  09:38 AM
                            [**2147-11-9**]  02:47 PM
                            [**2147-11-9**]  06:39 PM
                            [**2147-11-10**]  04:00 AM
   WBC
   10.6
   9.8
   18.6
   14.7
   Hct
   27.9
   30
   28.1
   27.3
   25.9
   Plt
   123
   92
   86
   86
   Cr
   0.8
   0.8
   0.9
   1.0
   1.0
   1.1
   TCO2
   20
   18
   17
   Glucose
   143
   105
   107
   113
   129
   103
   110
   Other labs: PT / PTT / INR:22.6/58.2/2.2, ALT / AST:82/138, Alk Phos /
   T Bili:180/5.8, Amylase / Lipase:126/104, Differential-Neuts:86.4 %,
   Lymph:6.3 %, Mono:6.8 %, Eos:0.5 %, Lactic Acid:3.3 mmol/L, Albumin:2.8
   g/dL, LDH:315 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   41 yo male with hx of HepC and EtOh cirrhosis with 4 admissions to ICU
   this month for altered mental status possibly complicated by sleep
   disordered breathing which have led to intuabtion each time, currently
   he is back to baseline.
   >Altered Mental status/Intubation: once again he has improved to what
   appears to be near his baseline with lactulose therapy. There is no
   concern for AIP or subclinical status at this point.  We are currently
   weighing the merits of tracheostomy in this patient given the number of
   intubations he has had in the past. It may be helpful with ventilation
   in the evening.
   - cont bolus sedation pending outcome of trach discussion
   - PS ventilation as above.
   >Liver failure: followed by liver service, on lactulose, rifax and
   flagy for clearance
   - cont above regimen
   Hyponatremia:  slowly improving over the past 24 hrs, we will cont to
   trend.  His Uosm and Fena were consistent with
   Lactate: most likely [**1-21**] underlying liver  dysfunction, he has had a
   similar oscillating in the past.
   Elevated WBC/mild fever: appears to be consistent with stress event as
   the WBC has improved markedly. If course begins to change we will need
   to consider paracentesis although he is on prophylaxis. Notably last
   tap was bland.
   - check c. dif
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-11-9**] 08:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2147-11-11 08:05:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2147-11-10**] 11:00 AM
   - Extubated successfully.
   - Ongoing discussion re: trach, may get next week.  Nighttime PPV until
   then.
   - CPAP overnight, tolerated well
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2147-11-10**] 08:00 AM
   Metronidazole - [**2147-11-11**] 02:11 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2147-11-10**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-11**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 92 (92 - 119) bpm
   BP: 121/62(74) {99/51(65) - 151/96(100)} mmHg
   RR: 15 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.9 kg (admission): 65 kg
   Height: 66 Inch
                  Total In:
                                                                  2,120 mL
                                                                     90 mL
   PO:
                                                                    540 mL
                  TF:
   IVF:
                                                                  1,150 mL
   Blood products:
   Total out:
                                                                  1,264 mL
                                                                    330 mL
   Urine:
                                                                    964 mL
                                                                    330 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    856 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 936 (936 - 936) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///16/
   Ve: 14.6 L/min
   Physical Examination
   General Appearance: No acute distress, sitting up in chair.
   Eyes / Conjunctiva: PERRL, icteric sclera.
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal) [**1-25**] SM at LSB.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), diminished at bases.
   Abdominal: Soft, Non-tender, Distended (unchanged)
   Extremities: Right: 1+, Left: 1+ edema
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): place, month, year , appropriate, slightly
   slowed speech (unchanged)
   Labs / Radiology
   77 K/uL
   8.5 g/dL
   99 mg/dL
   0.8 mg/dL
   16 mEq/L
   3.8 mEq/L
   22 mg/dL
   107 mEq/L
   130 mEq/L
   25.1 %
   10.0 K/uL
        [image002.jpg]
                            [**2147-11-6**]  04:42 AM
                            [**2147-11-6**]  09:07 AM
                            [**2147-11-9**]  05:50 AM
                            [**2147-11-9**]  07:19 AM
                            [**2147-11-9**]  09:21 AM
                            [**2147-11-9**]  09:38 AM
                            [**2147-11-9**]  02:47 PM
                            [**2147-11-9**]  06:39 PM
                            [**2147-11-10**]  04:00 AM
                            [**2147-11-11**]  03:54 AM
   WBC
   10.6
   9.8
   18.6
   14.7
   10.0
   Hct
   27.9
   30
   28.1
   27.3
   25.9
   25.1
   Plt
   123
   92
   86
   86
   77
   Cr
   0.8
   0.9
   1.0
   1.0
   1.1
   0.8
   TCO2
   20
   18
   17
   Glucose
   105
   107
   113
   129
   103
   110
   99
   Other labs: PT / PTT / INR:24.4/49.5/2.4, ALT / AST:59/102, Alk Phos /
   T Bili:126/7.1, Amylase / Lipase:126/104, Differential-Neuts:86.4 %,
   Lymph:6.3 %, Mono:6.8 %, Eos:0.5 %, Lactic Acid:3.3 mmol/L, Albumin:2.8
   g/dL, LDH:349 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   A/P: 41 yo M with pulmonary hypertension, ESLD on transplant list with
   Hep C cirrhosis, alcoholic cirrhosis, hypothyroidism who presents with
   his fourth episode of altered mental status requiring intubation for
   airway protection.
   # Somnolence and respiratory failure.  Respiratory code and intubation
   for airway protection now x 4 on floor.  Differential has included
   hepatic encephalopathy (worsening overnight with no overnight doses of
   lactulose), OSA or other sleep disordered breathing.  episodes have all
   occurred within a few hours of 8am meds (no lactulose for at least [**7-30**]
   hours).
   -          lactulose TID to maintain 4+ BM/day, continue rifaximin and
   flagyl.  [**Month (only) 51**] need specific overnight wakeup for lactulose.
   -         Possible OSA
 continue nighttime CPAP (tolerating well thus
   far).
   -          Discussion continues re: possible trach.  Would clearly be
   beneficial if this process is due to obstructive apnea (though unclear
   if this is the cause).  Would also be beneficial if central apnea in
   that could easily be hooked up to vent (but weighing risks, ?need to go
   to vent facility following discharge, increased risk of
   infections/VAPs) as opposed to repeated intubations and potential
   hypoxic exposures.  Will continue to follow discussions.
   .
    # Metabolic acidosis.  may be in part compensatory for respiratory
   alkalosis (hyperventilatory with liver failure and ascites), but bicarb
   dropping throughout this admission, likely an effect of increasing
   lactulose requirements leading to worsening diarrhea and bicarb losses.
   .
   # Gram positive cocci in ascitic fluid.  ?contaminant.  From tap [**11-6**],
   did not grow until [**11-10**].  70 WBCs with 7% PMNs, not consistent with
   SBP/infection.
   -          consider re-tap of ascites.
   -          f/u cultures, hold off on vanco for now.
   .
   # Hyponatremia: 1 L fluid restriction.  Restart diuretics.
   .
   # ESLD: Hep C and alcohol cirrhosis.
   - lactulose, rifaximin, flagyl as above.
   -restart diuretics
   -continue prophylactic cipro (SBP).
   - follow up hepatology recs
   .
    # Pulmonary HTN: on iloprost and sildenifil at home.  Sildenifil
   discontinued on floor due to concern of worsening OSA.  No evidence
   that this or other decompensations were related to pulmonary
   hypertension, as remains hemodynamically stable during these events.
   -          continue to hold sildenifil; restart iloprost..
   ICU Care
   Nutrition:
   Comments: regular, will change to low Na
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2147-11-9**] 08:10 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Critical Care
   Present for key portions of history and physical exam. Agree with Dr.
   [**Last Name (STitle) 3439**]
s assessment and plan. Repeated intubations for obtundation
   without structural lesions. Presumably events reflecting a combination
   of hepatic encephalopathy and OSA, as well as hyponatremia.  No
   evidence of acute intrinsic lung disease and sleep apnea is only mild.
   Strongly doubt a trache would be of help and would be very reluctant to
   intubate in the future for
airway protection
.  Agree with need for
   aggressive management of metabolic causes of altered MS.
   Time spent 35 min
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2147-11-11**] 15:29 ------

2147-11-12 08:06:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   Peritoneal fluid with GPCs --> coag negative staph, likely contaminant
   Unable to get iloprost.
   Viagra resumed
   Diuretics resumed
   On CPAP overnight
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2147-11-11**] 08:30 AM
   Metronidazole - [**2147-11-11**] 07:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-11-11**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-12**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96
   HR: 93 (78 - 116) bpm
   BP: 111/56(69) {90/54(61) - 126/82(89)} mmHg
   RR: 19 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.4 kg (admission): 65 kg
   Height: 66 Inch
                  Total In:
                                                                  1,100 mL
                                                                    270 mL
   PO:
                                                                  1,010 mL
                                                                    270 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    255 mL
   Urine:
                                                                  1,025 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     75 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   91 K/uL
   8.8 g/dL
   108 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.7 mEq/L
   20 mg/dL
   109 mEq/L
   135 mEq/L
   26.9 %
   10.2 K/uL
        [image002.jpg]
                            [**2147-11-6**]  09:07 AM
                            [**2147-11-9**]  05:50 AM
                            [**2147-11-9**]  07:19 AM
                            [**2147-11-9**]  09:21 AM
                            [**2147-11-9**]  09:38 AM
                            [**2147-11-9**]  02:47 PM
                            [**2147-11-9**]  06:39 PM
                            [**2147-11-10**]  04:00 AM
                            [**2147-11-11**]  03:54 AM
                            [**2147-11-12**]  06:00 AM
   WBC
   9.8
   18.6
   14.7
   10.0
   10.2
   Hct
   30
   28.1
   27.3
   25.9
   25.1
   26.9
   Plt
   92
   86
   86
   77
   91
   Cr
   0.9
   1.0
   1.0
   1.1
   0.8
   0.9
   TCO2
   20
   18
   17
   Glucose
   107
   113
   129
   103
   110
   99
   108
   Other labs: PT / PTT / INR:23.5/48.2/2.3, ALT / AST:57/91, Alk Phos / T
   Bili:150/5.6, Amylase / Lipase:126/104, Differential-Neuts:86.4 %,
   Lymph:6.3 %, Mono:6.8 %, Eos:0.5 %, Lactic Acid:3.3 mmol/L, Albumin:2.9
   g/dL, LDH:313 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   41 yo M with pulmonary hypertension, ESLD on transplant list with Hep C
   cirrhosis, alcoholic cirrhosis, hypothyroidism who presents with his
   fourth episode of altered mental status requiring intubation for airway
   protection.
   # Somnolence and respiratory failure.  Respiratory code and intubation
   for airway protection now x 4 on floor.  Differential has included
   hepatic encephalopathy (worsening overnight with no overnight doses of
   lactulose), OSA or other sleep disordered breathing.  episodes have all
   occurred within a few hours of 8am meds (no lactulose for at least [**7-30**]
   hours).
   -          lactulose TID to maintain 4+ BM/day, continue rifaximin and
   flagyl.  [**Month (only) 51**] need specific overnight wakeup for lactulose.
   -         Possible OSA
 continue nighttime CPAP (tolerating well thus
   far).
   -          Discussion continues re: possible trach.  Would clearly be
   beneficial if this process is due to obstructive apnea (though unclear
   if this is the cause).  Would also be beneficial if central apnea in
   that could easily be hooked up to vent (but weighing risks, ?need to go
   to vent facility following discharge, increased risk of
   infections/VAPs) as opposed to repeated intubations and potential
   hypoxic exposures.  Will continue to follow discussions.
   .
    # Metabolic acidosis.  may be in part compensatory for respiratory
   alkalosis (hyperventilatory with liver failure and ascites), but bicarb
   dropping throughout this admission, likely an effect of increasing
   lactulose requirements leading to worsening diarrhea and bicarb losses.
   .
   # Gram positive cocci in ascitic fluid.  ?contaminant.  From tap [**11-6**],
   did not grow until [**11-10**].  70 WBCs with 7% PMNs, not consistent with
   SBP/infection.
   -          consider re-tap of ascites.
   -          f/u cultures, hold off on vanco for now.
   .
   # Hyponatremia: 1 L fluid restriction.  Restart diuretics.
   .
   # ESLD: Hep C and alcohol cirrhosis.
   - lactulose, rifaximin, flagyl as above.
   -restart diuretics
   -continue prophylactic cipro (SBP).
   - follow up hepatology recs
   .
    # Pulmonary HTN: on iloprost and sildenifil at home.  Sildenifil
   discontinued on floor due to concern of worsening OSA.  No evidence
   that this or other decompensations were related to pulmonary
   hypertension, as remains hemodynamically stable during these events.
   -          continue to hold sildenifil; restart iloprost..
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2147-11-9**] 08:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2147-11-13 07:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2147-11-11**] 08:30 AM
   Metronidazole - [**2147-11-11**] 07:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-11-12**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-13**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 92 (84 - 122) bpm
   BP: 88/45(55) {80/34(43) - 117/79(112)} mmHg
   RR: 11 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.4 kg (admission): 65 kg
   Height: 66 Inch
                  Total In:
                                                                  1,030 mL
                                                                    100 mL
   PO:
                                                                  1,030 mL
                                                                    100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    745 mL
                                                                    215 mL
   Urine:
                                                                    745 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    285 mL
                                                                   -115 mL
   Respiratory support
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   8.8 g/dL
   91 K/uL
   108 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.7 mEq/L
   20 mg/dL
   109 mEq/L
   135 mEq/L
   26.9 %
   10.2 K/uL
        [image002.jpg]
                            [**2147-11-6**]  09:07 AM
                            [**2147-11-9**]  05:50 AM
                            [**2147-11-9**]  07:19 AM
                            [**2147-11-9**]  09:21 AM
                            [**2147-11-9**]  09:38 AM
                            [**2147-11-9**]  02:47 PM
                            [**2147-11-9**]  06:39 PM
                            [**2147-11-10**]  04:00 AM
                            [**2147-11-11**]  03:54 AM
                            [**2147-11-12**]  06:00 AM
   WBC
   9.8
   18.6
   14.7
   10.0
   10.2
   Hct
   30
   28.1
   27.3
   25.9
   25.1
   26.9
   Plt
   92
   86
   86
   77
   91
   Cr
   0.9
   1.0
   1.0
   1.1
   0.8
   0.9
   TCO2
   20
   18
   17
   Glucose
   107
   113
   129
   103
   110
   99
   108
   Other labs: PT / PTT / INR:23.5/48.2/2.3, ALT / AST:57/91, Alk Phos / T
   Bili:150/5.6, Amylase / Lipase:126/104, Differential-Neuts:86.4 %,
   Lymph:6.3 %, Mono:6.8 %, Eos:0.5 %, Lactic Acid:3.3 mmol/L, Albumin:2.9
   g/dL, LDH:313 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   41 yo male with hx of HepC and EtOh cirrhosis with 4 admissions to ICU
   this month for altered mental status possibly complicated by sleep
   disordered breathing which have led to intubation each time, currently
   he is back to baseline and has tolerated his CPAP well over the weekend
   with no episodes of morning altered MS
    >Altered Mental status/Intubation: once again he has improved to what
   appears to be near his baseline with lactulose therapy. There is no
   concern for AIP or subclinical status at this point.  We deferred trach
   to give a trial of CPAP which he has done well..
   - supportive CPAP at night.
    >Liver failure: followed by liver service, on lactulose, rifax and
   flagy for clearance
   - cont above regimen, added back the diuretic regimen
   - consider Vit K trial if INR remains elevated.
   >Hyponatremia:  slowly improving over the past 24 hrs, we will cont to
   trend.  His Uosm and Fena were consistent with SIADH
   >Elevated WBC/mild fever: appears to be consistent with stress event as
   the WBC has improved markedly. If course begins to change we will need
   to consider paracentesis although he is on prophylaxis. Notably last
   tap was bland (by cell count) although growing coag  neg staph.   c.
   dif was neg
   >Low HCO3: likely [**1-21**] the lactulose regimen, he has stabilized the
   values for now. Will cont to follow.
   >Portopulmonary hypertension
 continue iloprost via home neb system
   and sildenafil 25TID
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-11-9**] 08:10 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2147-11-13 07:55:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   Continued on lasix and spironolactone po
   On CPAP overnight
   Currently feeling well, no complaints.  Sleeping well on CPAP.
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2147-11-11**] 08:30 AM
   Metronidazole - [**2147-11-11**] 07:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-11-12**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-13**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 92 (84 - 122) bpm
   BP: 88/45(55) {80/34(43) - 117/79(112)} mmHg
   RR: 11 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.4 kg (admission): 65 kg
   Height: 66 Inch
                  Total In:
                                                                  1,030 mL
                                                                    100 mL
   PO:
                                                                  1,030 mL
                                                                    100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    745 mL
                                                                    215 mL
   Urine:
                                                                    745 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    285 mL
                                                                   -115 mL
   Respiratory support
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress.  Sitting up in
   chair.
   Eyes / Conjunctiva: PERRL, icteric sclera.
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   (unchanged)
   Extremities: trace edema bilaterally.
   Skin:  Not assessed, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   91 K/uL
   8.8 g/dL
   108 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.7 mEq/L
   20 mg/dL
   109 mEq/L
   135 mEq/L
   26.9 %
   10.2 K/uL
        [image002.jpg]
                            [**2147-11-6**]  09:07 AM
                            [**2147-11-9**]  05:50 AM
                            [**2147-11-9**]  07:19 AM
                            [**2147-11-9**]  09:21 AM
                            [**2147-11-9**]  09:38 AM
                            [**2147-11-9**]  02:47 PM
                            [**2147-11-9**]  06:39 PM
                            [**2147-11-10**]  04:00 AM
                            [**2147-11-11**]  03:54 AM
                            [**2147-11-12**]  06:00 AM
   WBC
   9.8
   18.6
   14.7
   10.0
   10.2
   Hct
   30
   28.1
   27.3
   25.9
   25.1
   26.9
   Plt
   92
   86
   86
   77
   91
   Cr
   0.9
   1.0
   1.0
   1.1
   0.8
   0.9
   TCO2
   20
   18
   17
   Glucose
   107
   113
   129
   103
   110
   99
   108
   Other labs: PT / PTT / INR:23.5/48.2/2.3, ALT / AST:57/91, Alk Phos / T
   Bili:150/5.6, Amylase / Lipase:126/104, Differential-Neuts:86.4 %,
   Lymph:6.3 %, Mono:6.8 %, Eos:0.5 %, Lactic Acid:3.3 mmol/L, Albumin:2.9
   g/dL, LDH:313 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   41 yo M with pulmonary hypertension, ESLD on transplant list with Hep C
   cirrhosis, alcoholic cirrhosis, hypothyroidism who presents with his
   fourth episode of altered mental status requiring intubation for airway
   protection.
   # Somnolence and respiratory failure.  Respiratory code and intubation
   for airway protection now x4 on floor.  DDX: hepatic encephalopathy,
   OSA or other sleep disordered breathing.
   - lactulose TID to maintain 4+ BM/day, rifaximin and flagyl-
   - possible OSA
 continue nighttime CPAP (tolerating well thus far).
   - discussion continues re: possible trach.  Would clearly be beneficial
   if this process is due to obstructive apnea (though unclear if this is
   the cause).  Would also be beneficial if central apnea in that could
   easily be hooked up to vent (but weighing risks, ?need to go to vent
   facility following discharge, increased risk of infections/VAPs) as
   opposed to repeated intubations and potential hypoxic exposures.  Will
   continue to follow discussions.  Plan right now to continue CPAP at
   night with late night or overnight lactulose; if requires repeat
   intubation with this regimen, will likely need trach.
   .
    # Metabolic acidosis.  may be in part compensatory for respiratory
   alkalosis (hyperventilatory with liver failure and ascites), but bicarb
   dropping throughout this admission, likely an effect of increasing
   lactulose requirements leading to worsening diarrhea and bicarb
   losses.  Continue to follow daily.
   .
   # Staph coag neg in ascitic fluid.  ?contaminant.  From tap [**11-6**], did
   not grow until [**11-10**].  70 WBCs with 7% PMNs, not consistent with
   SBP/infection.  Likely contaminant, not treating.  If fever or
   abdominal pain, will need repeat tap.
   .
   # Hyponatremia: Significantly improved.  With this improvement and
   slight bump in creatinine, will liberalize to 2 L restriction.
   .
   # ESLD: Hep C and alcohol cirrhosis.
   - lactulose, rifaximin, flagyl as above.
   -lasix and spironolactone, can further titrate on the floor.
   -continue prophylactic cipro (SBP).
   - follow up hepatology recs
   .
    # Pulmonary HTN: on iloprost and sildenifil at home.  Sildenifil
   discontinued on floor due to concern of worsening OSA.  No evidence
   that this or other decompensations were related to pulmonary
   hypertension, as remains hemodynamically stable during these events.
   -          continue sildenifil and iloprost (restarted over weekend).
   ICU Care
   Nutrition:
   Comments: regular low Na low protein
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-11-9**] 08:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:transfer to floor today.